Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / lidocaine / Tetracyclines
 
Attending: ___
 
Chief Complaint:
Chest pain, fatigue
 
Major Surgical or Invasive Procedure:
___ 
1. Emergency repair of a right ventricular tear.
2. Coronary artery bypass graft x1, saphenous vein graft to 
right coronary artery.
3. Open chest.

___
1. Mediastinal exploration and washout.
2. Chest closure.

 
History of Present Illness:
Ms. ___ is a ___ year old woman with past medical history 
significant for gastroesophageal reflux disease, hypertension, 
hydronephrosis, and osteoporosis. She presented to ___ 
on ___ with complaints of fatigue, generalized malaise, 
intermittent chest pain, and palpitations. 

She underwent urgent cardiac catheterization after EKG 
demonstrated ST elevations in the anterior leads. 
Non-obstructive coronary artery disease was noted and moderate 
aortic stenosis. LV gram demonstrated possible Takotsubo 
cardiomyopathy. Troponin peaked at 9.84. She was admitted to the 
ICU for further evaluation. A transthoracic echocardiogram 
___ demonstrated akinetic apex, EF 35%, small anterior 
pericardial effusion, without evidence of tamponade. Follow up 
EKGs with improvement in STE and RBBB.

She was evaluated by cardiology on ___ who recommended 
initiation of low dose beta blocker, single antiplatelet 
therapy, continuation of lisinopril and echocardiogram to 
further assess degree of aortic stenosis. She was also on 
levoquin for treatment of UTI (gram-positive cocci, sz pending). 
 

At 4pm on day of transfer initiation, patient noted midsternal 
epigastric pain radiating to her subscapular area. Repeat EKG 
was performed that demonstrated recurrence of her anterior 
lateral ST elevations more prominent in V3 and V4, approximately 
4 mm and approximately 2 mm in V5. Bedside ultrasound 
demonstrated increase in size of previously noted pericardial 
effusion. Patient had been diuresed with 20mg IV Lasix that 
morning, but given c/f for increased RV compression on 
echocardiogram, SBP ___, she was given IVF bolus. 

Upon arrival to CCU, patient anxious and mildly agitated. Denied 
difficulty breathing but noted mild epigastric discomfort, 
belching/gas, and slight back pain. No chest pain. Poor 
historian and slightly confused (did not recall meeting CCU 
residents moments prior), but reported ___ days of increasing 
fatigue, DOE, and palpitations with minimal activity. Presented 
to ED on ___ due to encouragement of sister in law who saw her 
that day and felt that she looked very ill. Noted onset of 
intermittent chest pain upon arrival to ED, ___, radiating 
across chest and worse with breathing. This chest discomfort 
occurred again today afternoon. Denied any recent infectious 
signs or symptoms including fevers, chills, nasal congestion, 
sore throat, cough, diarrhea, dysuria. She denies any orthopnea, 
PND, or pedal edema. Additionally no melena or hematochezia. 
With regards to recent life stressors, she was unable to 
pinpoint any acute events but noted that she was "always 
stressed" but tried to keep it in control. 

 
Past Medical History:
Anxeity
Gastroesophageal Reflux Disease EGD ___ with mild gastritis 
and small gastric AVMs 
Hydronephrosis, left
Hypertension
Nephrolithiasis
Osteoporosis
Recent left foot fracture
 
PAST SURGICAL HISTORY:
Status post hysterectomy
Status post ureteroscopy with stone removal and stent
 
Social History:
___
Family History:
Per ___ records: Patient's mother is deceased from lung 
cancer. Her father died in his ___ from a fatal myocardial 
infarction. She does have a brother who has coronary disease and 
a prior MI however he died later in life. She has one son who is 
apparently alive and in good health.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: 97.8, 108, 103/61, 33, 98% RA
GEN: Anxious, agitated  
HEENT: PERRL. MMM.  
NECK: JVP unable to determine  
CV: tachycardic, systolic murmur LUSB
LUNGS: Diminished but clear to auscultation  
ABD: +BS, TTP in LLQ (small ecchymoses at site of prior 
heparin/enoxaparin injections)  no guarding or rebound 
EXT: Slightly cool lower extremities. No pedal edema.  
SKIN: No rashes/lesions
NEURO: Slightly confused in speech, CN2-12 grossly intact, 
strength grossly intact. Gait deferred. 

 
Pertinent Results:
ADMISSION LABS:
==============

___ 11:48PM BLOOD WBC-15.4* RBC-3.99 Hgb-12.3 Hct-36.3 
MCV-91 MCH-30.8 MCHC-33.9 RDW-14.1 RDWSD-46.5* Plt ___
___ 11:48PM BLOOD ___ PTT-29.9 ___
___ 11:48PM BLOOD Glucose-160* UreaN-13 Creat-0.7 Na-136 
K-4.7 Cl-101 HCO3-21* AnGap-19
___ 11:48PM BLOOD ALT-130* AST-147* LD(LDH)-520* 
CK(CPK)-289* AlkPhos-77 TotBili-0.6
___ 11:48PM BLOOD CK-MB-18* MB Indx-6.2* cTropnT-0.48*
___ 04:14AM BLOOD CK-MB-16* MB Indx-6.2* cTropnT-0.52*
___ 11:48PM BLOOD Albumin-3.6 Calcium-8.7 Phos-2.6* Mg-2.2
___ 12:09AM BLOOD ___ pO2-32* pCO2-37 pH-7.37 
calTCO2-22 Base XS--4
___ 01:38AM BLOOD Type-CENTRAL VE pO2-36* pCO2-39 pH-7.36 
calTCO2-23 Base XS--2
___ 12:09AM BLOOD Lactate-4.2*
___ 01:38AM BLOOD Lactate-3.0*
___ 04:29AM BLOOD Lactate-3.2*
___ 06:32AM BLOOD Lactate-6.0*
___ 03:17AM BLOOD O2 Sat-44
___ 06:35AM BLOOD O2 Sat-41
___ 12:08AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:08AM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:08AM URINE RBC-27* WBC-24* Bacteri-FEW Yeast-NONE 
Epi-<1
___ 12:08AM URINE Mucous-OCC

IMAGING/STUDIES:
===============
___ TTE:
Conclusions   
 The left atrial volume index is normal. Left ventricular wall 
thicknesses and cavity size are normal. There is severe regional 
left ventricular systolic dysfunction with near akinesis of the 
distal half of the left ventricle. The apex is aneurysmal and 
mildly dyskinetic. The remaining basal segments are hyperdynamic 
and there is a valvular ___ and a severe resting LVOT gradient 
(peak >60 mmHg). No intraventricular thrombus is seen. Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). There is no ventricular septal defect. 
The right ventricular cavity is unusually small with normal free 
wall contractility. The aortic valve leaflets (?#) appear 
structurally normal with good leaflet excursion. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is systolic 
anterior motion of the mitral valve leaflets. There is moderate 
pulmonary artery systolic hypertension. There is a moderate 
sized (up to 2cm) pericardial effusion primarily around the 
basal half of the right ventricular free wall and very small 
effusion elsewhere. There is local right ventricular diastolic 
collapse, consistent with impaired fillling/tamponade 
physiology. 

 IMPRESSION: Normal left ventricular cavity size with regional 
systolic dysfunction c/w Tak___ cardiomyopathy (cannot 
exclude mid-LAD infarct if clinically suggested). Valvular ___ 
with resting severe LVOT obstruction. Moderate loculated 
pericardial effusion at the basal half of the RV free wall with 
evidence of hemodynamic compromise.   
.
___ Intra-op TEE
Conclusions   
 The left atrium is mildly dilated. No spontaneous echo contrast 
or thrombus is seen in the body of the left atrium or left 
atrial appendage. With maneuvers, there is early appearance of 
agitated saline/microbubbles in the left atrium/left ventricle 
most consistent with a patent foramen ovale. A left-to-right 
shunt across the interatrial septum is seen at rest. Left 
ventricular wall thicknesses and cavity size are normal. There 
is severe regional left ventricular systolic dysfunction with 
basal hyperkinesis and apical ballooning. There is an apical 
left ventricular aneurysm. The remaining left ventricular 
segments contract normally. The right ventricular cavity is 
markedly dilated with moderate global free wall hypokinesis. 
There are three aortic valve leaflets. There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are moderately thickened. There is systolic anterior 
motion of the mitral valve leaflets. Mild to moderate (___) 
mitral regurgitation is seen. The tricuspid valve leaflets are 
mildly thickened. Moderate to severe [3+] tricuspid 
regurgitation is seen. There is a moderate to large sized 
pericardial effusion.

 There was dynamic LVOT obstruction due to ___ with a peak LVOT 
grtadient of 65 mm hG. With volume resuscitation, heart rate 
control and vasopressor therapy the ___ and LVOT obstruction 
resolved. The RV also demonstrated transient dynamic functional 
deterioration volume resuscitation.

 The tear im the RV was repaired with CPB support and patient 
was weaned with inotropic and vasopressor support.

 POST CPB:
 1. Apical hypokinesis and basal hyperkinesis withot any LVOT 
obstruction
 2. Moderate to severe RV dilation with moderte TR.   

.
.TEE ___
Conclusions   
The right ventricular function is depressed with mild global 
free wall hypokinesis. The left ventricular function is mildly 
depredded (LVEF 40-45%) The apical segment is akinetic baseal 
segments have normal function.The ascending, transverse and 
descending thoracic aorta are normal in diameter and free of 
atherosclerotic plaque .. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion. Trace aortic 
regurgitation is seen. Mild (1+) mitral regurgitation is seen. 
There isno measurable gradient across the LVOTModerate to severe 
[3+] tricuspid regurgitation is seen. There is a very small 
pericardial effusion. There are no echocardiographic signs of 
tamponade. There is left pleural effusion
 Post sternal closure
 The RVEF is mildly depressed..The LVEF is 40-45%.there is no 
LVOT obstructionThere is moderate to severe tricuspid 
regurgitation.There is mild mitral regurgitation.The thoracic 
aorta is intact. The rest of the exam is unchanged.   
.
___ liver/gb u/s
Final Report 
EXAMINATION:  LIVER OR GALLBLADDER US (SINGLE ORGAN) 
  
INDICATION:  ___ year old woman with s/p RV rupture w/elevated 
LFT's  // assess 
for cholecystytis 
  
TECHNIQUE:  Grey scale and color Doppler ultrasound images of 
the abdomen were 
obtained. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the 
liver is smooth. There is no solid liver mass.  Numerous small 
cysts are noted 
throughout the liver.  The largest cyst is in the right lobe 
measuring 1.4 x 
1.5 x 1.4 cm.  The main portal vein is patent with hepatopetal 
flow. There is 
scant trace ascites and a small right pleural effusion is noted. 

  
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD 
is at the top 
limit of normal measuring 7 mm. 
  
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening. 
  
PANCREAS: The pancreas is unremarkable but is only minimally 
visualized due to 
overlying bowel gas. 
  
SPLEEN:  Normal echogenicity, measuring 10.8 cm. 
  
KIDNEYS:  Limited views of the kidneys show no hydronephrosis. 
  
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION: 
  
  
  
1. Normal gallbladder.  There are no sonographic signs of 
cholecystitis. 
2. Several cysts incidentally noted in the liver.  No biliary 
dilatation. 
3. Scant trace ascites and small right pleural effusion. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
.
___ u/s
 
IMPRESSION:  
  
No evidence of deep vein thrombosis in the right upper extremity 


.
___
IMPRESSION:  
  
Normal right upper extremity arterial duplex.  No evidence of 
stenosis or 
occlusion. 
  .

___ 06:15AM BLOOD WBC-14.9* RBC-3.50* Hgb-10.2* Hct-31.8* 
MCV-91 MCH-29.1 MCHC-32.1 RDW-16.3* RDWSD-53.1* Plt ___
___ 05:54AM BLOOD WBC-16.0* RBC-3.63* Hgb-10.7* Hct-32.8* 
MCV-90 MCH-29.5 MCHC-32.6 RDW-15.9* RDWSD-51.6* Plt ___
___ 06:00AM BLOOD WBC-15.5* RBC-3.69* Hgb-10.6* Hct-33.2* 
MCV-90 MCH-28.7 MCHC-31.9* RDW-15.9* RDWSD-51.1* Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:00AM BLOOD ___ PTT-25.2 ___
___ 06:15AM BLOOD Glucose-109* UreaN-19 Creat-0.9 Na-141 
K-4.4 Cl-107 HCO3-21* AnGap-17
___ 05:54AM BLOOD Glucose-102* UreaN-21* Creat-0.8 Na-143 
K-3.8 Cl-107 HCO3-24 AnGap-16
___ 02:43AM BLOOD ALT-104* AST-82* AlkPhos-106* 
Amylase-211* TotBili-1.2
___ 03:29AM BLOOD ALT-593* AST-1389* AlkPhos-49 
Amylase-371* TotBili-2.2*
 
Brief Hospital Course:
She was admitted to ___ on ___ with stress 
cardiomyopathy in the setting of pericardial effusion. She had 
worsening mental status and rising lactate. An echocardiogram 
revealed right ventricular collapse explaining obstructive 
shock. She was taken to the cath lab for LV support and had an 
Impella placed. However, she continued to be hypotensive. She 
had her pericardial fluid drained with transient improvement in 
her hemodynamics, but she quickly decompensated in the setting 
of bleed from punctured ventrical. Cardiac surgery was urgently 
consulted and she was taken to the operating room. She underwent 
repair of RV rupture and CABG x 1. The patient left the 
Operating Room in critical but stable condition with an open 
chest. She required vasopressor and inotropic support- which was 
weaned in the immediate post-op days.  Hemodynamics improved and 
chest was closed on POD 3. She was found to be thrombocytopenic 
and HIT was positive. Anti-coagulation was initiated with 
Bivalrudin. Hematology was consulted and subsequently SRA 
returned negative.  Bivalrudin was discontinued. Her 
hemodynamics improved, she was adequately diuresed and was able 
to extubate three days following chest closure. Chest tubes and 
pacing wires were discontinued without complication. She 
initially exhibited confusion and was started on Seroquel with 
good effect.  
Foley had to be re-placed for urinary retention.  Flomax was 
started with good effect  Foley was discontinued and she 
successfully passed a void trial.  
Beta blocker was initiated and she was gently diuresed toward 
the preoperative weight. She was transferred to the telemetry 
floor for further recovery. She was evaluated by the physical 
therapy service for assistance with strength and mobility.  By 
the time of discharge on POD 12 she was ambulating freely, the 
wound was healing and pain was controlled with oral analgesics. 
She was discharged to ___ at ___ in good condition 
with appropriate follow up instructions.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Pantoprazole 40 mg PO Q24H 
2. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q24H 
2. QUEtiapine Fumarate 12.5 mg PO BID 
12.5mg bid x 7 days, then 12.5mg daily x 7 days, then 
discontinue 
RX *quetiapine [Seroquel] 25 mg 0.5 (One half) tablet(s) by 
mouth twice a day Disp #*11 Tablet Refills:*0
3. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
4. Aspirin 81 mg NG DAILY 
5. Carvedilol 6.25 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Furosemide 20 mg PO DAILY Duration: 7 Days 
8. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
9. Lisinopril 2.5 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
RV rupture
PMH:
htn, osteoporosis, GERD, left
hydronephrosis and recent left foot fracture

 
Discharge Condition:
DISCHARGE CONDITION:
 Alert and oriented x3 non-focal- slightly forgetful at times
 Ambulating, deconditioned
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage

Edema- trace

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___